US04835175
10 g of 7-benzyloxy-4-(N-benzyl-N-tert-butylaminoacetyl)-2-indolecarboxylic acid ethyl ester is combined with 300 ml of tetrahydrofuran, 300 ml of methanol, and 100 ml of 2N sodium hydroxide solution and stirred for 4 hours at room temperature. Then 120 ml of 2N hydrochloric acid is added and the mixture concentrated until the onset of crystallization. The crystallized product is vacuum-filtered and the mother liquor once more concentrated. The resultant secondary crystallization product is combined with the first-obtained crystallized product, dried, and recrystallized from methanol/ethyl acetate, thus obtaining 8.8 g of 7-benzyloxy-4-(N-benzyl-N-tert-butylaminoacetyl)indole-2-carboxylic acid hydrochloride, decomposition point 158° C.

reactant | 7-benzyloxy-4-(N-benzyl-N-tert-butylaminoacetyl)-2-indolecarboxylic acid ethyl ester | 10 g | C(C)OC(=O)C=1NC2=C(C=CC(=C2C1)C(CN(C(C)(C)C)CC1=CC=CC=C1)=O)OCC1=CC=CC=C1 | C31H34N2O4
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 2N, 100 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 120 ml | Cl | ClH
solvent | methanol | 300 ml | CO | CH4O
product | 7-benzyloxy-4-(N-benzyl-N-tert-butylaminoacetyl)indole-2-carboxylic acid hydrochloride | 8.8 g | Cl.C(C1=CC=CC=C1)OC=1C=CC(=C2C=C(NC12)C(=O)O)C(CN(C(C)(C)C)CC1=CC=CC=C1)=O | InChI=1S/C29H30N2O4.ClH/c1-29(2,3)31(17-20-10-6-4-7-11-20)18-25(32)22-14-15-26(35-19-21-12-8-5-9-13-21)27-23(22)16-24(30-27)28(33)34;/h4-16,30H,17-19H2,1-3H3,(H,33,34);1H
